US07566735B2
1-[2-(4-bromophenyl)propanoyl]pyrrolidine
A solution of 2-(4-bromophenyl)propanoic acid (215 mg, 0.94 mmol) in dichloromethane (4 ml) was treated in one portion with solid 1,1′-carbonyldiimidazole (152 g, 0.94 mmol). This mixture was allowed to stir at room temperature for 15 minutes. Pyrrolidine (67 mg, 0.94 mmol) was then added and the stirring continued for 1 hour at room temperature. Most of the solvent was removed under reduced pressure and the residue added to a 5 g pre-packed silica column and eluted from 0-50% ethyl acetate in petroleum ether to give the title compound as a colourless solid (189 mg, 71%).

reactant | 2-(4-bromophenyl)propanoic acid | 0.94 mmol, 215 mg | BrC1=CC=C(C=C1)C(C(=O)O)C | C9H9BrO2
reactant | 1,1′-carbonyldiimidazole | 0.94 mmol, 152 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Pyrrolidine | 0.94 mmol, 67 mg | N1CCCC1 | C4H9N
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 1-[2-(4-bromophenyl)propanoyl]pyrrolidine | 189 mg, 71% | BrC1=CC=C(C=C1)C(C(=O)N1CCCC1)C | C13H16BrNO
